US05166204
In 10 ml of N,N-dimethylformamide was dissolved 200 mg of N-(2-dimethylaminoethyl)-6-chlorocarbazole-3,4-dicarboximide. Thereto was added 830 mg of methyl iodide. The mixture was stirred at room temperature for 2 hours. The resulting crystals were collected by filtration, washed with ethyl acetate, and dried to obtain 220 mg (yield: 78%) of N-(2-tri methylammonioethyl)-6-chlorocarbazole-3,4-dicarboximide iodide as yellow crystals.

reactant | N-(2-dimethylaminoethyl)-6-chlorocarbazole-3,4-dicarboximide | 200 mg | CN(CCN1C(=O)C=2C=CC=3NC4=CC=C(C=C4C3C2C1=O)Cl)C | C18H16ClN3O2
reactant | methyl iodide | 830 mg | CI | CH3I
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(2-tri methylammonioethyl)-6-chlorocarbazole-3,4-dicarboximide iodide | 220 mg, yield: 78% | [I-].C[N+](CCN1C(=O)C=2C=CC=3NC4=CC=C(C=C4C3C2C1=O)Cl)(C)C | InChI=1S/C19H18ClN3O2.HI/c1-23(2,3)9-8-22-18(24)12-5-7-15-16(17(12)19(22)25)13-10-11(20)4-6-14(13)21-15;/h4-7,10H,8-9H2,1-3H3;1H
